US07037909B2
4-(4,5-Diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol
A mixture of 4-(5-amino-[1,3,4]oxadiazol-2-ylmethyl)-phenol 4.902 g (25.64 mmol), water 40 mL and anhydrous hydrazine 13 mL was refluxed on an oil bath (190° C.) for 18 hours. The mixture was cooled, allowed to crystallize at room temperature for 2 hours, then placed into a freezer (−20° C.) overnight (16 hrs). The precipitated product was collected by filtration, washed with chilled MeOH (−15° C.) and dried on high vacuum. The crude product was re-crystallized from water (80 mL, reflux to +4° C. overnight). Filtered, washed with ice-cold water and dried on high vacuum.

reactant | 4-(5-amino-[1,3,4]oxadiazol-2-ylmethyl)-phenol | 25.64 mmol, 4.902 g | NC1=NN=C(O1)CC1=CC=C(C=C1)O | C9H9N3O2
reactant | hydrazine | 13 mL | NN | H4N2
solvent | water | 40 mL | O | H2O
product | 4-(4,5-Diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol | NN1C(=NN=C1N)CC1=CC=C(C=C1)O | C9H11N5O
